AEL EFT immunity clamp transient model
.param clamp_voltage='AEL_clamp_voltage_V'
.param series_resistance='AEL_series_resistance_ohm'
Veft pulse 0 PULSE(0 1000 1n 5n 5n 50n 1u)
Rseries pulse protected {series_resistance}
Dclamp protected 0 TVS
Cload protected 0 100n
.model TVS D(BV={clamp_voltage} IBV=1m RS=0.1)
.tran 0.2n 2u
.measure tran ael_peak_voltage MAX v(protected)
.measure tran ael_recovery_voltage FIND v(protected) AT=900n
.measure tran ael_late_voltage FIND v(protected) AT=1900n
.measure tran ael_peak_series_current PARAM='(1000-ael_peak_voltage)/series_resistance'
.measure tran ael_failure PARAM='ael_peak_voltage > 40 || abs(ael_late_voltage) > 1'
.end
